US09216968B2
2-Chloro-5-(2,2-difluoroethoxy)benzoic acid
To a solution of methyl 2-chloro-5-(2,2-difluoroethoxy)benzoate (55 mg) in MeOH (1 mL) was added 1M aqueous lithium hydroxide (0.88 mL), and the solution was stirred at room temperature for 12 hours. The reaction mixture was stirred under ice-cooling, 2M hydrochloric acid was added slowly to acidify to pH 2-3, and the precipitated solid was filtered. The solid was washed sequentially with a small amount of water and diethyl ether, and dried under reduced pressure to obtain the titled compound (28 mg) as white powder.

reactant | methyl 2-chloro-5-(2,2-difluoroethoxy)benzoate | 55 mg | ClC1=C(C(=O)OC)C=C(C=C1)OCC(F)F | C10H9ClF2O3
reactant | lithium hydroxide | 1M, 0.88 mL | [OH-].[Li+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | 2-Chloro-5-(2,2-difluoroethoxy)benzoic acid | 28 mg | ClC1=C(C(=O)O)C=C(C=C1)OCC(F)F | C9H7ClF2O3
